US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 1-benzoyl-4-(4-methoxyphenyl)piperazine (193 mg), and the resulting crude product was purified on TLC (developer, chloroform: acetone=4:1) to provide 1-benzoyl-4-(4-hydroxyphenyl)piperazine (141 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 1-benzoyl-4-(4-methoxyphenyl)piperazine | 193 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C18H20N2O2
product | 1-benzoyl-4-(4-hydroxyphenyl)piperazine | 141 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C17H18N2O2
